US07348348B2
Step B: 5-(4-(2-chlorophenyl)benzylidene)thiazolidine-2,4-dione
To a solution of 4-formyl-(2′-chloro-1,1′-biphenyl) (0.12 g, 0.55 mmol) and 2,4-thiazolidinedione (0.08 g, 0.65 mmol) in toluene (10 mL) were added piperidine (0.008 mL, 0.073 mMol) and benzoic acid (0.011 mg, 0.08 mmol), and the reaction was refluxed for 4 h with continuous removal of water. The solvent was then distilled off and the oily residue obtained was purified by chromatography on silica-gel using hexane: ethyl acetate (3:1) as the eluent to yield titled product.

reactant | 4-formyl-(2′-chloro-1,1′-biphenyl) | 0.55 mmol, 0.12 g | C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C13H9ClO
reactant | 2,4-thiazolidinedione | 0.65 mmol, 0.08 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.073 mMol, 0.008 mL | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.08 mmol, 0.011 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(4-(2-chlorophenyl)benzylidene)thiazolidine-2,4-dione | ClC1=C(C=CC=C1)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C16H10ClNO2S
